Hartley's Oscillator Circuit
* Hartley is an harmonic oscillator (LC based) which use
* an inductive partition of resonator to feed the single 
* active device. Output is taken on node 2.
* Prediceted frequency is about 121.176 Hz.
*
* PLOT V(3)

* Models:
.model qnl npn(level=1 bf=80 rb=100 ccs=2pf tf=0.3ns tr=6ns cje=3pf cjc=2pf va=50)

vcc 	1 0 	5 pwl 0 0 1e-5 5
r1	1 2	0.2k
q1	2 3 0	qnl
c1	3 4	633n
l1	3 0	1.5
l2	0 4	500m
r2	4 2	100

*.tran 300n 50m
.pss 50 200e-3 2 1024 11 10 5e-3 uic
